US08580775B2
Synthesis of acetoxysinapic acid (Substance 4a of Table 1)
Batch: 1) 2 kg (11 moles) syringaldehyde; 2) 8.64 kg acetic anhydride; 3) 0.01 kg 4-N,N-dimethylaminopyridine, 4) 0.902 kg sodium acetate, 5) 3.349 kg acetic anhydride

reactant | syringaldehyde | 11 moles, 2 kg | C(C1=CC(OC)=C(O)C(OC)=C1)=O | C9H10O4
reactant | acetic anhydride | 8.64 kg | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | 0.902 kg | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 3.349 kg | C(C)(=O)OC(C)=O | C4H6O3
product | acetoxysinapic acid | C(C)(=O)O/C(/C(=O)O)=C\C1=CC(OC)=C(O)C(OC)=C1 | C13H14O7
